US06331538B1
6-Fluoro-3-hydroxy-7-pyrrolidin-1-yl-1-(3-trifluoromethylphenyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Using the method of Example 56, 20% Pd/C (25 mg), 3-benzyloxy-6-fluoro-7-pyrrolidin-1-yl-1-(3-trifluoromethylphenyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example S-4, 0.17 g, 0.34 mmol) were combined in 25 mL of THF, to give 0.08 g of the title compound as a solid, mp 136-138° C.

reactant | 3-benzyloxy-6-fluoro-7-pyrrolidin-1-yl-1-(3-trifluoromethylphenyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.34 mmol, 0.17 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCCC2)F)C2=CC(=CC=C2)C(F)(F)F)=O | C25H20F4N4O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | 6-Fluoro-3-hydroxy-7-pyrrolidin-1-yl-1-(3-trifluoromethylphenyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.08 g | FC1=CC2=C(N(C(N(C2=O)O)=O)C2=CC(=CC=C2)C(F)(F)F)N=C1N1CCCC1 | C18H14F4N4O3
